US04731472
Step B: [6,7-Dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2 -propyl-1H-inden-5-yl]succinic acid
Diethyl methoxycarbonylmethyl[6,7-dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2-propyl-1H-inden-5-yl]malonate (10.7 g, 0.019 mole) was stirred at reflux for 21/2 hours in a mixture of methanol (120 ml), water (120 ml) and sodium hydroxide (6 g). The solution was cooled, diluted with water, acidified with hydrochloric acid, and extracted with methylene chloride. The organic extracts were washed with water, dried over MgSO4 and concentrated to obtain 8.0 g of the product as a gum.

reactant | Diethyl methoxycarbonylmethyl[6,7-dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2-propyl-1H-inden-5-yl]malonate | 0.019 mole, 10.7 g | COC(=O)CC(C(=O)OCC)(C(=O)OCC)C=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(CCC)CC=C(C)Cl | C26H31Cl3O7
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 120 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 120 ml | O | H2O
product | [6,7-Dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2 -propyl-1H-inden-5-yl]succinic acid | 8.0 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CCC)CC=C(C)Cl)C(C(=O)O)CC(=O)O | C20H21Cl3O5
